US06028076
A mixture of 4-amino-5-cyanoimidazole (1.09 g, 11 mmol) and hexaneamide (4.39 g, 38 mmol) was heated at 210° C. for 15 h under N2 atmosphere. After cooling, the residue was dissolved in a mixture of DMF (200 ml) and water (50 ml). Benzyl chloride (3 ml) and K2CO3 (3 g) was added to the mixture, and heated at 70° C. for 6 h. Solvent was evaporated under vacuum, the residue was extracted by CH2Cl2. The resulting organic layer was evaporated under vacuum. 9-benzyl-2-pentyladenine was obtained by the purification of the residue by column chromatography (CH2Cl2 :MeOH=100:1-50:1). Bromine (2 ml) was added to the mixture of 9-benzyl-2-hexyladenine and NaOAc (5 g) in ACOH (40 ml) within an ice bath, and the mixture was heated at 70° C. for 6 h. Solvent was evaporated under vacuum, the residue was extracted by EtOAc. The resulting organic layer was evaporated under vacuum, 9-benzyl-8-bromo-2-pentyladenine was obtained by the purification of the residue by column chromatography (CH2Cl2 :MeOH=100:1). A mixture of 9-benzyl-8-bromo-2-pentyladenine and conc.HCl (20 ml) was refluxed for 6 h. After cooling, aqueous NH3 was added to neutralize and crystallize the product (pH=8), and the desired compound was collected by filtration (0.25 g, Yield: 8%).

reactant | 4-amino-5-cyanoimidazole | 11 mmol, 1.09 g | NC=1N=CNC1C#N | C4H4N4
reactant | hexaneamide | 38 mmol, 4.39 g | C(CCCCC)(=O)N | C6H13NO
reactant | Benzyl chloride | 3 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 9-benzyl-2-pentyladenine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)CCCCC | C17H21N5
